US09227976B2
4-chloro-3,5-diphenyl-1-(2-pyridylmethyl)pyrazolo[3,4-c]pyridazine (Compound IIp)
Compound IIp was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and pyridin-2-ylmethanol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | pyridin-2-ylmethanol | N1=C(C=CC=C1)CO | C6H7NO
product | 4-chloro-3,5-diphenyl-1-(2-pyridylmethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC2=NC=CC=C2 | C23H16ClN5
